US09238640B2
To a stirred solution of 2-amino-4,6-difluoro-benzamide (0.50 g, 2.9 mmol) and pyridine-4-carbaldehyde (0.35 g, 3.2 mmol) in N,N-dimethylacetamide (10 mL) were added sodium hydrogen sulfite (0.63 g, 3.5 mmol) and p-toluenesulfonic acid (0.06 g, 0.3 mmol); the reaction mixture was stirred at 115° C. for 16 hours. The solvent was evaporated in vacuo, water was added, and the precipitated solid was filtered off to obtain 5,7-difluoro-2-pyridin-4-yl-3H-quinazolin-4-one as a yellow solid, which was used in the next step without further purification. Yield: 0.4 g (53%).

reactant | 2-amino-4,6-difluoro-benzamide | 2.9 mmol, 0.50 g | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
reactant | pyridine-4-carbaldehyde | 3.2 mmol, 0.35 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium hydrogen sulfite | 3.5 mmol, 0.63 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 0.3 mmol, 0.06 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 5,7-difluoro-2-pyridin-4-yl-3H-quinazolin-4-one | FC1=C2C(NC(=NC2=CC(=C1)F)C1=CC=NC=C1)=O | C13H7F2N3O
